US05196147
A 3.30 g amount of L-valine methyl ester hydrochloride was suspended in 50 ml of ether, followed by adding thereto 1.89 g of triethyl amine to obtain an ether solution of the L-valine methyl ester. This solution was added to a solution of 0.12 g of the above-mentioned carboxylic acid (2) in 10 ml of THF to obtain the needles. When the second harmonic generating ability of the crystal powder was determined, the intensity was 3 times of that of urea.

reactant | L-valine methyl ester hydrochloride | Cl.COC([C@@H](N)C(C)C)=O
reactant | triethyl amine | 1.89 g | C(C)N(CC)CC | C6H15N
solvent | ether | 50 ml | CCOCC | C4H10O
product | L-valine methyl ester | COC([C@@H](N)C(C)C)=O | C6H13NO2
